US07208450B2
Step C Synthesis of 2-(trifluoromethyl)benzoxazol-6-ol as an Intermediate
A stirred solution of 0.8 gram (0.0036) of N-(2,4-dihydroxyphenyl)-2,2,2-trifluoroacetamide and a catalytic amount of p-toluenesulfonic acid in 50 mL of toluene was heated at reflux during an 18 hour period while the theoretical amount of water by-product was collected in a Dean-Stark trap. After this time the reaction mixture was concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using methylene chloride as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 0.3 gram of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | N-(2,4-dihydroxyphenyl)-2,2,2-trifluoroacetamide | 0.8 gram | OC1=C(C=CC(=C1)O)NC(C(F)(F)F)=O | C8H6F3NO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(trifluoromethyl)benzoxazol-6-ol | 0.3 gram | FC(C=1OC2=C(N1)C=CC(=C2)O)(F)F | C8H4F3NO2
